US08304557B2
N-{6-[5-({[3-(1-cyano-1-methylethyl)phenyl]carbonyl}amino)-2-methylphenoxy][1,2,4]triazolo[1,5-a]pyridin-2-yl}-1,3-thiazole-4-carboxamide
To a solution of 1,3-thiazole-4-carboxylic acid (121 mg, 938 μmol) in tetrahydrofuran (3 mL) were added oxalyl chloride (102 μL, 1.17 mmol) and N,N-dimethylformamide (20 μL) and the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated under reduced pressure. The obtained residue and N-{3-[(2-amino[1,2,4]triazolo[1,5-a]pyridin-6-yl)oxy]-4-methylphenyl}-3-(1-cyano-1-methylethyl)benzamide (200 mg, 0.469 mmol) were dissolved in pyridine (5 mL), and the mixture was stirred at room temperature for 16 hr. A saturated aqueous sodium hydrogen carbonate solution (15 mL) was added to the reaction mixture, and the mixture was extracted with ethyl acetate (20 mL, 5 mL). The combined organic layer was washed with saturated brine (5 mL), and dried over anhydrous sodium sulfate. The insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (NH silica gel, ethyl acetate/methanol=100/0→99/1), and fractions containing the desired product were concentrated under reduced pressure. Diisopropyl ether was added to the obtained residue. The obtained precipitate was collected by filtration, and dried to give the title compound (206 mg, 82%) as a colorless powder.

reactant | 1,3-thiazole-4-carboxylic acid | 938 μmol, 121 mg | S1C=NC(=C1)C(=O)O | C4H3NO2S
reactant | oxalyl chloride | 1.17 mmol, 102 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-{3-[(2-amino[1,2,4]triazolo[1,5-a]pyridin-6-yl)oxy]-4-methylphenyl}-3-(1-cyano-1-methylethyl)benzamide | 0.469 mmol, 200 mg | NC1=NN2C(C=CC(=C2)OC=2C=C(C=CC2C)NC(C2=CC(=CC=C2)C(C)(C)C#N)=O)=N1 | C24H22N6O2
reactant | sodium hydrogen carbonate | 15 mL | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | N,N-dimethylformamide | 20 μL | CN(C=O)C | C3H7NO
product | N-{6-[5-({[3-(1-cyano-1-methylethyl)phenyl]carbonyl}amino)-2-methylphenoxy][1,2,4]triazolo[1,5-a]pyridin-2-yl}-1,3-thiazole-4-carboxamide | 206 mg, 82% | C(#N)C(C)(C)C=1C=C(C=CC1)C(=O)NC=1C=CC(=C(OC=2C=CC=3N(C2)N=C(N3)NC(=O)C=3N=CSC3)C1)C | C28H23N7O3S
